US04307105
(b) 5-Bromo-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-2-methylthiazole, hydrochloride (1:1)
Following the procedure of Example 1b, reaction of 5-bromo-4-chloromethyl-2-methylthiazole and 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol, yields the title compound, m.p. 247°-248° C. (absolute ethanol).

reactant | 5-bromo-4-chloromethyl-2-methylthiazole | BrC1=C(N=C(S1)C)CCl | C5H5BrClNS
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
solvent | ethanol | C(C)O | C2H6O
product | 5-Bromo-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-2-methylthiazole, hydrochloride | Cl.BrC1=C(N=C(S1)C)COC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C16H14BrCl2N3OS.ClH/c1-10-21-14(16(17)24-10)8-23-15(7-22-5-4-20-9-22)12-3-2-11(18)6-13(12)19;/h2-6,9,15H,7-8H2,1H3;1H
